US07915271B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-butyryl-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (300 mg, 0.554 mmol) in CHCl3 (3 mL) at 0° C. under N2, was added dropwise a solution of bromine (0.030 mL, 0.582 mmol) in CHCl3 (2 mL). The reaction was stirred at 0° C. for 1 h. The reaction mixture was evaporated in vacuo. The residue was purified by flash chromatography on silica gel to give (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(2-bromobutanoyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one as a white solid. LCMS calc.=622.0; found=621.7 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers) δ 7.91 (s, 1H); 7.85 (d, J=5.1 Hz, 1H); 7.83-7.77 (m, 2.5H); 7.74-7.69 (m, 1.5H); 5.79 (d, J=7.8 Hz, 0.5H); 5.74 (d, J=7.9 Hz, 0.5H); 5.06-4.92 (m, 2H); 4.57 (d, J=16.4 Hz, 0.5H); 4.47 (d, J=16.0 Hz, 0.5H); 4.24-4.16 (m, 1H); 2.35-2.25 (m, 1H); 2.19-2.09 (m, 1H); 1.18-1.16 (m, 3H); 0.80 (d, J=6.6 Hz, 1.5H); 0.78 (d, J=6.6 Hz, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-butyryl-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.554 mmol, 300 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C(CCC)=O)C)(F)F | C24H20F9NO3
reactant | bromine | 0.582 mmol, 0.030 mL | BrBr | Br2
solvent | CHCl3 | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(2-bromobutanoyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C(C(CC)Br)=O)C)(F)F | C24H19BrF9NO3
